US08426402B2
(R,Z)-3-(benzyloxy)-2-methoxy-7,8,9,10-tetrahydrobenzo[e]pyrido[1,2-a][1,4]diazepin-12(6aH)-one
To (R)-1-(4-(benzyloxy)-5-methoxy-2-nitrobenzoyl)piperidine-2-carbaldehyde (1.0 g, 2.51 mmol) in a mixture solution of 25 ml of THF and 15 ml of water was added Na2S2O4 (3.0 g, 17.25 mmol). The mixture was stirred for 4 h, diluted with methanol and dioxane, evaporated and co-evaporated with dioxane (3×60 ml) to dryness. The solid was sonicated with a mixture of CH3OH/CH2Cl2 (1:1, 80 ml), filtered and evaporated to solid. The yield solid was dissolved in CH3OH (100 ml) and 0.4 ml of HCl (conc) was added. The mixture was stirred for 1 h, neutralized to pH 3.0 with 0.1 M NaHCO3, concentrated, and extracted with CH2Cl2 (4×60 ml), The organic layers were combined, washed with 1M NaHCO3/NaCl (conc.), dried over Na2SO4, filtered, evaporated and purified on SiO2 chromatography eluted with EtAc/CH2Cl2 (1:3) to afford 615 mg (70%) of the title product.1H NMR (CDCl3), 7.81 (d, 1H, J=5.7 Hz), 7.38˜7.23 (m, 6H), 6.74 (s, 1H), 5.12 (dd, 2H, J=2.3, 21.8 Hz), 4.18 (m, 1H), 3.88 (d, 3H), 3.69 (m, 1H), 3.15 (m, 1H), 1.99 (m, 1H), 1.87 (m, 1H), 1.79-1.65 (m, 4H); 13C NMR 167.76, 163.31, 150.72, 148.48, 140.09, 136.46, 128.87, 128.28, 127.53, 121.77, 111.01, 71.02, 56.41, 49.84, 39.93, 24.76, 23.21, 18.62; MS m/z+ 373.2 (M+Na), 391.2 (M+Na+H2O), 405.3 (M+Na+CH3OH).

reactant | (R)-1-(4-(benzyloxy)-5-methoxy-2-nitrobenzoyl)piperidine-2-carbaldehyde | 2.51 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)N2[C@H](CCCC2)C=O)C=C1OC)[N+](=O)[O-] | C21H22N2O6
reactant | THF | 25 ml | C1CCOC1 | C4H8O
reactant | water | 15 ml | O | H2O
reactant | Na2S2O4 | 17.25 mmol, 3.0 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | methanol | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (R,Z)-3-(benzyloxy)-2-methoxy-7,8,9,10-tetrahydrobenzo[e]pyrido[1,2-a][1,4]diazepin-12(6aH)-one | 615 mg, 70% | C(C1=CC=CC=C1)OC=1C(=CC2=C(\N=C/[C@@H]3N(C2=O)CCCC3)C1)OC | C21H22N2O3
